US03959322
Add the crude methiodide of 1-diethylamino-6-m-methoxyphenylhexan-3-one (2.5 g) in methanol (10 cc) ice-cold to a solution obtained by adding 2-methylcyclopentane-1,3-dione (0.5 g) to an ice-cold solution of sodium (0.21 g) in methanol (10 cc). Allow the reaction mixture to warm to room temperature and leave for 16 hours, after which add N hydrochloric acid (10 cc) and saturated brine (100 cc), ether-extracting the solution. Evaporate the washed and dried extracts to obtain crude 2-(6-m-methoxyphenyl-3-oxohexyl)-2-methylcyclopentane-1,3-dione as a gum; dissolve in benzene (25 cc) containing toluene-p-sulfonic acid (0.4 g) and reflux the mixture for one hour. Cool, add ether (25 cc), and wash, dry, and evaporate the solution. Take up the resulting gum in benzene (5 cc) and adsorb on a column of Fuller's earth (100 g). Elute with a mixture of benzene and light petroleum to obtain a series of fractions, one of which crystallizes (0.04 g). Boil this fraction with methanol and decant the solution from insoluble oil which forms. Reduce the solution in bulk by evaporation, depositing crystals on cooling; recrystallize from methanol to obtain 13β-methyl-3-methoxygona-1,3,5(10),8,14-pentaen-17-one, m.p. 111°-113°C; ultraviolet absorption peak at 312 mμ (ε34,800).

reactant | 1-diethylamino-6-m-methoxyphenylhexan-3-one | 2.5 g | C(C)N(CCC(CCCC1=CC(=CC=C1)OC)=O)CC | C17H27NO2
reactant | 2-methylcyclopentane-1,3-dione | 0.5 g | CC1C(CCC1=O)=O | C6H8O2
reactant | sodium | 0.21 g | [Na] | Na
reactant | hydrochloric acid | 10 cc | Cl | ClH
solvent | methanol | 10 cc | CO | CH4O
solvent | methanol | 10 cc | CO | CH4O
solvent | brine | 100 cc | [Cl-].[Na+].O
solvent | ether | CCOCC | C4H10O
product | 2-(6-m-methoxyphenyl-3-oxohexyl)-2-methylcyclopentane-1,3-dione | COC=1C=C(C=CC1)CCCC(CCC1(C(CCC1=O)=O)C)=O | C19H24O4
